US08809539B2
Methanesulfonyl chloride (0.157 mL, 0.0020 mol) is added to a stirred solution of {4-[5-(4-cyclohexyl phenyl)-[1,2,4]oxadiazole-3-yl]-phenyl}-methanol (0.45 g, 0.0013 mol) and triethylamine (0.376 mL, 0.0027 mol) in dichloromethane (10 mL) at 5° C. Reaction mixture is stirred at 5° C. for 30 minutes, then treated with demineralized water (10 mL). Dichloromethane layer is separated and aqueous layer is extracted with dichloromethane (2×15 mL). Combined organic layer is dried over sodium sulphate and concentrated under reduced pressure to yield methanesulfonic acid 4-[5-(4-cyclohexyl-phenyl)[1,2,4]oxadiazol-3-yl]-benzyl ester.

reactant | Methanesulfonyl chloride | 0.0020 mol, 0.157 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | {4-[5-(4-cyclohexyl phenyl)-[1,2,4]oxadiazole-3-yl]-phenyl}-methanol | 0.0013 mol, 0.45 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO | C21H22N2O2
reactant | triethylamine | 0.0027 mol, 0.376 mL | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 4-[5-(4-cyclohexyl-phenyl)[1,2,4]oxadiazol-3-yl]-benzyl ester | C1(CCCCC1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(COS(=O)(=O)C)C=C1 | C22H24N2O4S
